US06166006
Under argon atmosphere, a mixture of methyl 7-bromo-2,3-dihydro-1-benzothiepine-4-carboxylate (1.5 g), 3,4-methylenedioxyphenyl borate (0.92 g) and potassium carbonate (1.39 g) in toluene/ethanol/water (50/5/5 ml) was stirred at room temperaturel hours. To the mixture was added tetrakistriphenylphosphine palladium (0.29 g), and the mixture was refluxed for 16 hours and cooled. The mixture was extracted with ethyl acetate, washed with saturated brine and dried with magnesium sulfate. Under reduced pressure, the mixture was concentrated, and the residue was purified with column chromatography (ethyl acetate/hexane=1:2) to give pale yellow crystals of methyl 7-(3,4-methylenedioxyphenyl)-2,3-dihydro-1-benzo-thiepine-4-carboxylate (1.55 g).

reactant | methyl 7-bromo-2,3-dihydro-1-benzothiepine-4-carboxylate | 1.5 g | BrC=1C=CC2=C(C=C(CCS2)C(=O)OC)C1 | C12H11BrO2S
reactant | 3,4-methylenedioxyphenyl borate | 0.92 g | B(OC1=CC2=C(C=C1)OCO2)([O-])[O-]
reactant | potassium carbonate | 1.39 g | C([O-])([O-])=O.[K+].[K+]
solvent | toluene ethanol water | 5 ml | C1(=CC=CC=C1)C.C(C)O.O
product | methyl 7-(3,4-methylenedioxyphenyl)-2,3-dihydro-1-benzo-thiepine-4-carboxylate | 1.55 g | C1OC=2C=C(C=CC2O1)C=1C=CC2=C(C=C(CCS2)C(=O)OC)C1 | C19H16O4S
